US07902394B2
1-Chloro-4-iodo-2-vinylbenzene (2.43 g, 9.19 mmol) was dissolved in t-BuOH/H2O (1:1, 60 mL) and then cooled to 0° C. AD-mix-α (11 g) was slowly added. The reaction slowly warmed to rt overnight. Sodium sulfite (11 g) was added and the solution stirred at rt. After 3 h, H2O and CH2Cl2 were added and the organic layer isolated. The aqueous layer was washed with CH2Cl2 (3×) and then the combined organic extracts were combined, dried (Na2SO4), concentrated, and purified by Biotage chromatography (0%-100% EtOAc/hexanes) to afford 2.6 g of (1S)-1-(2-chloro-5-iodophenyl)ethane-1,2-diol as an oil that will solidify over time (95%). 1H NMR (400 MHz, chloroform-d) δ ppm 7.94 (d, J=2.27 Hz, 1 H) 7.55 (dd, J=8.34, 2.02 Hz, 1 H) 7.07 (d, J=8.34 Hz, 1 H) 5.17 (dd, J=7.58, 3.03 Hz, 1 H) 3.90 (dd, J=11.24, 3.16 Hz, 1 H) 3.54 (dd, J=11.24, 7.71 Hz, 1 H) 3.49 (s, 2 H).

reactant | 1-Chloro-4-iodo-2-vinylbenzene | 9.19 mmol, 2.43 g | ClC1=C(C=C(C=C1)I)C=C | C8H6ClI
reactant | AD-mix-α | 11 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | Sodium sulfite | 11 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | H2O | O | H2O
solvent | t-BuOH H2O | 60 mL | CC(C)(C)O.O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (1S)-1-(2-chloro-5-iodophenyl)ethane-1,2-diol | 2.6 g | ClC1=C(C=C(C=C1)I)[C@@H](CO)O | C8H8ClIO2
